US08633175B2
N-{[4′-(1H-1,2,4-triazol-3-yl)-3-biphenylyl]methyl}-2,3-dihydro-1H-inden-2-amine hydrochloride
To a solution of (3-{3′-[(2,3-dihydro-1H-inden-2-ylamino)methyl]-4-biphenylyl}-1H-1,2,4-triazol-1-yl)methyl 2,2-dimethylpropanoate (0.084 g, 0.17 mmol, Example X-3) in EtOH (1.5 mL) was added a 4.37 M solution of NaOMe in MeOH (0.08 mL, 0.35 mmol). The mixture was stirred for 50 min at RT. A 1.2M solution of concentrated HCl in EtOH was added (1.2 mL), and the mixture was heated at 80° C. for 1 h. The reaction mixture was cooled, diluted with water, and basified to a pH of 10 with addition of saturated Na2CO3 (aq). The mixture was extracted with EtOAc. The combined organic extracts were washed with water and brine, dried with anhydrous Na2SO4, and concentrated in vacuo. The residue was dissolved in CH2Cl2 and MeOH, and 4N HCl in dioxane was added (0.2 mL). After stirring for 15 min, the precipitate was filtered, washed with CH2Cl2, and dried, affording the title compound as a colorless solid (0.057 g, 89%). (M+H) 367, 1.74 min (LC/MS Method B).

reactant | (3-{3′-[(2,3-dihydro-1H-inden-2-ylamino)methyl]-4-biphenylyl}-1H-1,2,4-triazol-1-yl)methyl 2,2-dimethylpropanoate | 0.17 mmol, 0.084 g | CC(C(=O)OCN1N=C(N=C1)C1=CC=C(C=C1)C1=CC(=CC=C1)CNC1CC2=CC=CC=C2C1)(C)C | C30H32N4O2
reactant | NaOMe | C[O-].[Na+]
reactant | MeOH | 0.35 mmol, 0.08 mL | CO | CH4O
reactant | HCl | Cl | ClH
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | EtOH | 1.5 mL | CCO | C2H6O
solvent | water | O | H2O
product | N-{[4′-(1H-1,2,4-triazol-3-yl)-3-biphenylyl]methyl}-2,3-dihydro-1H-inden-2-amine hydrochloride | 0.057 g, 89% | Cl.N1N=C(N=C1)C1=CC=C(C=C1)C1=CC(=CC=C1)CNC1CC2=CC=CC=C2C1 | InChI=1S/C24H22N4.ClH/c1-2-6-22-14-23(13-21(22)5-1)25-15-17-4-3-7-20(12-17)18-8-10-19(11-9-18)24-26-16-27-28-24;/h1-12,16,23,25H,13-15H2,(H,26,27,28);1H
